US07329694B2
2-Methoxyethylamine (44.6 g), ethyl acetate (100 mL) and triethylamine (50.6 g) were introduced into a 300 mL flask equipped with a dropping funnel and a magnetic stirrer. The flask was immersed in an ice bath and the contents of the flask were stirred as nitrogen gas was being introduced. Acryloyl chloride (45.3 g) was introduced into the dropping funnel and was added dropwise over a period of approximately one hour. After the dropwise addition was completed, stirring was continued for 1 hour at room temperature. The salt, which was separated out by suction filtration using celite, was separated by filtration, after which low boiling point components were removed with a rotary vacuum evaporator. Purification was performed by distillation under reduced pressure and N-(2-methoxyethyl)acrylamide was obtained as a colorless transparent liquid.

reactant | 2-Methoxyethylamine | 44.6 g | COCCN | C3H9NO
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | Acryloyl chloride | 45.3 g | C(C=C)(=O)Cl | C3H3ClO
solvent | triethylamine | 50.6 g | C(C)N(CC)CC | C6H15N
product | N-(2-methoxyethyl)acrylamide | COCCNC(C=C)=O | C6H11NO2
